US08957068B2
To a solution of (S)-methyl 2-aminopropanoate (270 mg, 2.0 mmol, 1.2 equv. in 10 ml of DMSO) and (S)-3-(2-chloropyrimidin-4-yl)-4-isopropyloxazolidin-2-one (430 mg, 1.8 mmol, 1.0 equv.) was added DIPEA (805 mg, 6.23 mmol, 3.5 equiv), and the reaction mixture was heated at 110° C. for 120 min. The reaction mixture was poured into water (40 ml) and extracted with EtOAc (2×30 mL) and washed with water (30 mL). After separation, the aqueous phase was extracted with EtOAc (3×8 mL). Combined organics were dried over Na2SO4, filtered and concentrated. Silica gel column chromatography (ethyl acetate in heptane 10 to 80%) to provide (S)-methyl 2-((4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-yl)amino)propanoate (260 mg, white solid) in 47.4% yield. LCMS m/z 309.1 (M+H)+ RT=1.53 min.

reactant | (S)-methyl 2-aminopropanoate | 2.0 mmol, 10 ml, 270 mg | N[C@H](C(=O)OC)C | C4H9NO2
reactant | (S)-3-(2-chloropyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 1.8 mmol, 430 mg | ClC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C10H12ClN3O2
reactant | DIPEA | 6.23 mmol, 805 mg, 3.5 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | water | 40 ml | O | H2O
product | (S)-methyl 2-((4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-yl)amino)propanoate | 260 mg, 47.4% yield | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@H](C(=O)OC)C | C14H20N4O4
